US05968492
L-arginine (17.4 g, 0.1 mmols) was dissolved in 100 ml of water in a three-necked round flask, and 100 ml of i-propanol were added thereto. Dodecyl glycidyl ether (48.4 g, 0.2 mols) was added thereto dropwise over a period of 30 minutes while being heat-stirred under reflux, and the mixture was stirred as such under reflux for 3 hours. After it was identified through TLC and gas chromatography that dodecyl glycidyl ether disappeared, the residue was neutralized with 10.1 g (0.1 mols) of 36-% hydrochloric acid. The reaction solution was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (Kieselgel 60, eluent--mixture of chloroform, methanol and acetic acid at a ratio of 3:1:0.5) to give 11.4 g of N,N-bis (2-hydroxy-3-dodecyloxypropyl)-L-arginine hydrochloride in a yield of 17.2%.

reactant | L-arginine | 0.1 mmols, 17.4 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | i-propanol | 100 ml | C(C)(C)O | C3H8O
reactant | Dodecyl glycidyl ether | 0.2 mols, 48.4 g | C(C1CO1)OCCCCCCCCCCCC | C15H30O2
reactant | hydrochloric acid | 0.1 mols, 10.1 g | Cl | ClH
solvent | water | 100 ml | O | H2O
product | N,N-bis (2-hydroxy-3-dodecyloxypropyl)-L-arginine hydrochloride | 11.4 g, yield of 17.2% | Cl.OC(CN([C@@H](CCCNC(N)=N)C(=O)O)CC(COCCCCCCCCCCCC)O)COCCCCCCCCCCCC | InChI=1S/C36H74N4O6.ClH/c1-3-5-7-9-11-13-15-17-19-21-26-45-30-32(41)28-40(34(35(43)44)24-23-25-39-36(37)38)29-33(42)31-46-27-22-20-18-16-14-12-10-8-6-4-2;/h32-34,41-42H,3-31H2,1-2H3,(H,43,44)(H4,37,38,39);1H/t32?,33?,34-;/m0./s1
